US05665718
A solution of 5 g (17.64 mmol) of (S)-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid hydrazide and 3.06 g (19.41 mmol) of ethyl chloroacetimidate in 40 ml of dimethylformamide and 10 ml of ethanol was stirred at 90° for 12 hours. The solvent was evaporated and the residue was partitioned between methylene chloride and water. The aqueous phase was back-washed once with methylene chloride. The organic phases were dried with magnesium sulfate, filtered and evaporated. Chromatography of the residue (silica gel, methylene chloride/methanol 93:3) yielded 3.26 g (55%) of (S)-1-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-9-one as a colourless foam, RF=0.5 (methylene chloride/methanol 10:1).

reactant | (S)-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid hydrazide | 17.64 mmol, 5 g | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(=O)NN)CC2 | C14H13N5O2
reactant | ethyl chloroacetimidate | 19.41 mmol, 3.06 g | ClCC(OCC)=N | C4H8ClNO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (S)-1-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-9-one | 3.26 g, 55% | ClCC1=NN=C(O1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C16H12ClN5O2
